US05436233
2-[N-(3-pyridylcarbonyl)amino]benzamide
To a solution of anthranilamide (8.2 g, being on sale) and triethylamine (18.0 g)in 100 mL of tetrahydrofuran/methylene chloride (1:1), was added nicotinoyl chloride hydrochloride (10.8 g). The mixture was allowed to stir at room temperature, under nitrogen atmosphere, for six hours. The solution was then concentrated under reduced pressure. The concentrate was taken up in ethyl acetate and water and the mixture filtered. The solid material was triturated in ether and filtered to give the title compound (11.5 g) as a yellow powder having the following physical data.

reactant | anthranilamide | 8.2 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | triethylamine | 18.0 g | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 10.8 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | tetrahydrofuran methylene chloride | 100 mL | O1CCCC1.C(Cl)Cl
product | 2-[N-(3-pyridylcarbonyl)amino]benzamide | 11.5 g | N1=CC(=CC=C1)C(=O)NC1=C(C(=O)N)C=CC=C1 | C13H11N3O2
